US07935700B2
(166-1) Synthesis of 2-chloro-4-[bis(ethoxycarbonyl)methyl]-6,7-dimethoxyquinazoline
Diethyl malonate (0.76 mL) was dissolved in dioxane (25 mL), sodium hydride (200 mg) was added, and the mixture was stirred at room temperature for 30 min. Then, 2,4-dichloro-6,7-dimethoxyquinazoline (1.3 g) was added, and the mixture was heated under reflux for 3.5 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was recrystallized from a mixed solvent of ethyl acetate and hexane to give the title compound (840 mg) as a white solid.

reactant | Diethyl malonate | 0.76 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | 1.3 g | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | Water | O | H2O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-4-[bis(ethoxycarbonyl)methyl]-6,7-dimethoxyquinazoline | 840 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C(C(=O)OCC)C(=O)OCC)OC)OC | C17H19ClN2O6
